US04495196
B. 4,5-Bis(4-fluorophenyl)-1-methyl-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanol
A mixture of 4.0 g (0.015 mole) of 2,3-bis(4-fluorophenyl)-1-methyl-1H-pyrrole and 3.7 g (0.017 mole) of hexafluoroacetone trihydrate in 75 ml toluene was heated at reflux overnight. Another 3.7 g of hexafluoroacetone trihydrate was added and the mixture was heated at reflux overnight again. An additional 2.0 g of hexafluoroacetone trihydrate was added and the mixture was heated at reflux another eight hours. The mixture was washed twice with water, then the organic layer was dried and concentrated. The crude product was purified by chromatography on silica gel, eluting with hexane/toluene mixtures to give, after recrystallization from hexane, 4.8 g of product, m.p. 130°-131°.

reactant | 2,3-bis(4-fluorophenyl)-1-methyl-1H-pyrrole | 0.015 mole, 4.0 g | FC1=CC=C(C=C1)C=1N(C=CC1C1=CC=C(C=C1)F)C | C17H13F2N
reactant | hexafluoroacetone trihydrate | 0.017 mole, 3.7 g | O.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | hexafluoroacetone trihydrate | 3.7 g | O.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | hexafluoroacetone trihydrate | 2.0 g | O.O.O.FC(C(=O)C(F)(F)F)(F)F
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Bis(4-fluorophenyl)-1-methyl-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanol | FC1=CC=C(C=C1)C=1C=C(N(C1C1=CC=C(C=C1)F)C)C(O)(C(F)(F)F)C(F)(F)F | C20H13F8NO
